US07858654B2
To a solution of 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester (500 mg, 1.42 mmol) in DMSO (10 ml) was added 2-Isopropylimidazole (312 mg, 2.83 mmol), CuI (54 mg, 0.283 mmol), N,N′-dimethylglycine HCl salt (79 mg, 0.567 mmol) and K2CO3 (391 mg, 2.83 mmol) under N2 atmosphere. The mixture was heated to 100° C. overnight. After cooling to room temperature, the mixture was diluted with H2O (15 ml). The mixture was extracted with EtOAc. The combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed under reduced pressure. The residue was purified by flash chromatography (30%-75% EtOAc in hexanes) to afford 3-(2-isopropyl-imidazol-1-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester as an off-white solid (270 mg, 57%).

reactant | 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 1.42 mmol, 500 mg | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)I)=O | C14H12INO2
reactant | 2-Isopropylimidazole | 2.83 mmol, 312 mg | C(C)(C)C=1NC=CN1 | C6H10N2
reactant | K2CO3 | 2.83 mmol, 391 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | H2O | 15 ml | O | H2O
catalyst | CuI | 0.283 mmol, 54 mg | [Cu]I
product | 3-(2-isopropyl-imidazol-1-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 270 mg, 57% | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)N1C(=NC=C1)C(C)C)=O | C20H21N3O2
